US04536505
A solution of 90 mg of 3-[3-(ethoxycarbonylmethylthio)propyl]-N-(3-pyridyl)indole in 5 ml of methanol and 1 ml of 1N sodium hydroxide is refluxed for 10 hours, cooled and evaporated. The resulting oil is partitioned between ether and water. The aqueous phase is brought to pH=6 with concentrated sulfuric acid, is extracted with chloroform and the chloroform extract is dried over sodium sulfate. Filtration and evaporation gives an oil which is redissolved in 2 ml of acetone and is treated with 0.07 ml of 3N ethereal hydrogen chloride. Evaporation and crystallization from acetone-ether yields 3-[3-(carboxymethylthio)propyl]-N-(3-pyridyl)indole hydrochloride, m.p. 106°-110°.

reactant | 3-[3-(ethoxycarbonylmethylthio)propyl]-N-(3-pyridyl)indole | 90 mg | C(C)OC(=O)CSCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C20H22N2O2S
reactant | hydrogen chloride | 3N, 0.07 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 3-[3-(carboxymethylthio)propyl]-N-(3-pyridyl)indole hydrochloride | Cl.C(=O)(O)CSCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | InChI=1S/C18H18N2O2S.ClH/c21-18(22)13-23-10-4-5-14-12-20(15-6-3-9-19-11-15)17-8-2-1-7-16(14)17;/h1-3,6-9,11-12H,4-5,10,13H2,(H,21,22);1H
